US04587046
p-Nitro-D-Phenylalanine (6)
D-Phenylalanine (12.0 g, 73 mmol) and potassium nitrate (11 g, 109 mmol) were loaded into a teflon HF apparatus commonly used for the deprotection of peptides. The mixture was treated with liquid HF at approximately 0° C. for one hour. After removal of the HF by vacuum, the residue was dissolved in water and treated with concentrated ammonia until pH 6. The precipitate was recrystallized from hot water. Yield 9.31 g (61%) of a nearly white solid, mp 236.5°-237° C., [α]D25 =-8.63° (c=1.7, 1N HCl).

reactant | D-Phenylalanine | 73 mmol, 12.0 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | potassium nitrate | 109 mmol, 11 g | [N+](=O)([O-])[O-].[K+]
product | p-Nitro-D-Phenylalanine | [N+](=O)([O-])C1=CC=C(C[C@@H](N)C(=O)O)C=C1 | C9H10N2O4
